US07691892B2
a) [2-(3-Chloro-phenyl)-2H-tetrazol-5-yl]-methanol
2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde (70.8 mg, 0.339 mmol) was dissolved in THF (5 mL) and lithium borohydride (25.9 mg, 1.187 mmol) was added. The reaction was allowed to reflux under argon for three hours and was then allowed to stir overnight at room temperature. The reaction was quenched with 1M hydrochloric acid and an aqueous workup was done extracting with ethyl acetate three times. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated to yield the title compound as a white solid (75.8 mg, 106%). 1H NMR (CDCl3) δ (ppm): 8.190 (s, 1H), 8.070 (m, 1H), 7.507 (m, 2H), 5.082 (s, 2H).

reactant | 2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde | 0.339 mmol, 70.8 mg | ClC=1C=C(C=CC1)N1N=C(N=N1)C=O | C8H5ClN4O
reactant | lithium borohydride | 1.187 mmol, 25.9 mg | [BH4-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [2-(3-Chloro-phenyl)-2H-tetrazol-5-yl]-methanol | 75.8 mg, 106% | ClC=1C=C(C=CC1)N1N=C(N=N1)CO | C8H7ClN4O
